US04107307
A. 3-[(5-methyl-2-m-tolyl-4-imidazolyl)methylene]-carbazic acid, methyl ester.
A mixture of 5-methyl-2-m-tolyl-4-imidazolecarboxaldehyde (6.9 g, 0.034 mole), methyl carbazate (3.1 g, 0.034 mole). methylene chloride (70 ml) and acetic acid (1 drop) is refluxed for 1 hour. The precipitated white solid is collected by filtration to yield 7.1 g (0.026 mole), mp. 162°-164° c.

reactant | 5-methyl-2-m-tolyl-4-imidazolecarboxaldehyde | 0.034 mole, 6.9 g | CC1=C(N=C(N1)C=1C=C(C=CC1)C)C=O | C12H12N2O
reactant | methyl carbazate | 0.034 mole, 3.1 g | C(NN)(=O)OC | C2H6N2O2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 3-[(5-methyl-2-m-tolyl-4-imidazolyl)methylene]-carbazic acid, methyl ester | CC1=C(N=C(N1)C=1C=C(C=CC1)C)C=NNC(=O)OC | C14H16N4O2
